US08211928B2
(S)-tert-Butyl 5-bromo-3-(1-(tert-butoxycarbonyl)-pyrrolidine-2-carboxamido)-1H-indazole-1-carboxylate
A solution of (S)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid (8.41 g, 39.1 mmol) and ethyl 2-ethoxyquinoline-1(2H)-carboxylate (EEDQ, 9.66 g, 39.1 mmol) in DCE (50 mL) was allowed to stir at rt for 10 min. To this solution was added a solution of tert-butyl 3-amino-5-bromo-1H-indazole-1-carboxylate (6.1 g, 19.54 mmol) in DCE (50 mL) in one portion and the resulting mixture was heated at 70° C. overnight. The mixture was partitioned between sat NaHCO3 and EtOAc and the phases were separated. The aqueous layer was extracted (×2) with EtOAc and the combined organic layers were dried (Na2SO4) and concentrated in vacuo. The residue was purified on flash chromatography (BIOTAGE® eluting with a gradient of 0 to 100% Ether/Hexanes) to afford the title compound as yellow solid contaminated with quinoline. The material was dissolved in ether and washed several times with HCl (1M). The organic layer was dried (Na2SO4) and concentrated in vacuo to give the title compound (4.8 g, 48% yield) as yellow solid. The material was used as is in subsequent steps. 1H NMR (500 MHz, CD3OD) δ 8.19 (app d, J=11.3 Hz, 1H), 8.03 (unresolved dd, J=8.9, 11.0 Hz, 1H), 7.67-7.70 (m, 1H), 4.40-4.44 (m, 1H), 3.57-3.61 (m, 1H), 3.47-3.52 (m, 1H), 2.33-2.42 (m, 1H), 2.01-2.13 (m, 2H), 1.91-1.98 (m, 1H), 1.68 (s, 9H), 1.50, 1.42 (s, 9H, rotamers, 2:1 ratio). LCMS: Anal. Calcd. for C22H29BrN4O5: 508, 510; found: 509, 511 (M+H)+.

reactant | (S)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 39.1 mmol, 8.41 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O | C10H17NO4
reactant | ethyl 2-ethoxyquinoline-1(2H)-carboxylate | 39.1 mmol, 9.66 g | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
reactant | tert-butyl 3-amino-5-bromo-1H-indazole-1-carboxylate | 19.54 mmol, 6.1 g | NC1=NN(C2=CC=C(C=C12)Br)C(=O)OC(C)(C)C | C12H14BrN3O2
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
product | (S)-tert-Butyl 5-bromo-3-(1-(tert-butoxycarbonyl)-pyrrolidine-2-carboxamido)-1H-indazole-1-carboxylate | BrC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)NC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C22H29BrN4O5
